US07772183B2
Prepared by way of method I of example 27 using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene (50 mg, 0.088 mmol) and cyclohexanecarbonyl chloride (35 μL, 0.26 mmol). The final trituration (diethyl ether/petroleum ether) and filtration gave 16 mg (27%) of 18-cyclohexanecarbonyloxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 96.1% pure (HPLC), MS m/z 679 (M−H)−, HRMS: calcd. 679.3013 and found 679.3007 (M−H)−, mp 128-130° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.088 mmol, 50 mg | OC1CN2C(C(CCCOCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C25H38N4O9S
reactant | cyclohexanecarbonyl chloride | 0.26 mmol, 35 μL | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 18-cyclohexanecarbonyloxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-10-oxatricyclo-[14.3.0.04,6]-nonadec-7-ene | 16 mg, 27% | C1(CCCCC1)C(=O)OC1CN2C(C(CCCOCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C32H48N4O10S
